US05985905
(E) Ethyl 3-(5,6-dichloro-1H-indol-2-yl)-2-propenoate
5,6-Dichloro-1H-indole-2-carboxaldehyde (35 g, 164 mmol) and (ethoxycarbonylmethylene)triphenylphosphorane (60 g, 176 mmol) were dissolved in toluene and refluxed for three hours. The solvent was evaporated under reduced pressure and the reaction mixture was purified by chromatography on silicagel (n-hexane/AcOEt, 8/2) obtaining pure title compound (28 g, 98.5 mmol, yield 60.1%).

reactant | 5,6-Dichloro-1H-indole-2-carboxaldehyde | 164 mmol, 35 g | ClC=1C=C2C=C(NC2=CC1Cl)C=O | C9H5Cl2NO
reactant | (ethoxycarbonylmethylene)triphenylphosphorane | 176 mmol, 60 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(5,6-dichloro-1H-indol-2-yl)-2-propenoate | 98.5 mmol, 28 g, yield 60.1% | ClC=1C=C2C=C(NC2=CC1Cl)C=CC(=O)OCC | C13H11Cl2NO2
